US09382265B2
(b) (3R,3aS)-3-(hydroxymethyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-carbonitrile
Using compound (3R,3 aS)-3-((t-butyldimethylsiloxy)methyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-carbonitrile (0.538 g, 1.494 mmol), tetra-n-butylammonium fluoride (1M, 2.99 ml) as starting materials, preparation following the method as described in Example 1(b) afforded 0.24 g white solid, yield 65.3%.

reactant | (3R,3 aS)-3-((t-butyldimethylsiloxy)methyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-carbonitrile | 1.494 mmol, 0.538 g | O([Si](C)(C)C(C)(C)C)C[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)C#N)=O | C18H24N2O4Si
reactant | tetra-n-butylammonium fluoride | 1M, 2.99 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (3R,3aS)-3-(hydroxymethyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-carbonitrile | 0.24 g, yield 65.3% | OC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)C#N)=O | C12H10N2O4
